US08067445B2
Step 1: (3-Bromo-4-hydroxy-phenyl)-acetic acid
3-Bromo-4-methoxyphenylacetic acid (1.3 g, 5.6 mmol) was heated in a solution of hydrogen bromide (3 mL) and acetic acid (3 mL) at 100° C. overnight. The mixture was then partitioned between EtOAc and H2O, and the aqueous layer was separated and extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | 3-Bromo-4-methoxyphenylacetic acid | 5.6 mmol, 1.3 g | BrC=1C=C(C=CC1OC)CC(=O)O | C9H9BrO3
reactant | hydrogen bromide | 3 mL | Br | BrH
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | (3-Bromo-4-hydroxy-phenyl)-acetic acid | BrC=1C=C(C=CC1O)CC(=O)O | C8H7BrO3
